US08975400B2
D3: 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
A suspension of 1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidine-5,7(1H,6H)-dione (0.41 g, 2.45 mmol) in POCl3 (15 mL, 161 mmol) was stirred at 90° C. for 6 h. The suspension was concentrated in vacuo to remove all of POCl3. Cold water was added to the resultant residue, and then solid NaOH was added dropwise to adjust pH to ˜12. The solution was stirred at rt for 2 h. Aqueous HCl was added to adjust pH to ˜7. Purification via Mass Directed AutoPrep (MDAP) afforded the title compound as a white solid (0.42 g, 93% yield).

reactant | 1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidine-5,7(1H,6H)-dione | 2.45 mmol, 0.41 g | CN1CCN2C(NC(C=C21)=O)=O | C7H9N3O2
reactant | POCl3 | 161 mmol, 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.42 g, 93% yield | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
